US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(3-(2-methyl-1-(3-methylisoxazol-5-ylamino)-1-oxopropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide
DIEA (28 μL, 0.158 mmol) was added to a stirring solution of 2-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzamido)-2-methylpropanoic acid (25 mg, 0.053 mmol), 3-methylisoxazol-5-amine (11 mg, 0.105 mmol) in DMF (527 μL) at rt. It was allowed to stir for 30 min. NaH (11 mg, 0.263 mmol) was added and the reaction was allowed to stir overnight. The mixture was treated with a drop of MeOH and was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (3.3 mg, 11%). 1H NMR (500 MHz, CD3OD) δ ppm 8.18-8.24 (1H, m), 7.93-8.00 (3H, m), 7.84-7.91 (2H, m), 7.65-7.74 (2H, m), 7.58 (1H, t, J=7.78 Hz), 7.23-7.31 (2H, m), 2.98 (3H, s), 2.24 (3H, s), 1.65 (6H, s). LC-MS retention time: 1.69 min; m/z (MH+): 555. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=12.09 min, purity=100%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=11.18 min, purity=99%.

reactant | DIEA | 0.158 mmol, 28 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzamido)-2-methylpropanoic acid | 0.053 mmol, 25 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)NC(C(=O)O)(C)C)C=CC2 | C27H23FN2O5
reactant | 3-methylisoxazol-5-amine | 0.105 mmol, 11 mg | CC1=NOC(=C1)N | C4H6N2O
reactant | NaH | 0.263 mmol, 11 mg | [H-].[Na+]
solvent | DMF | 527 μL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-(4-Fluorophenyl)-N-methyl-5-(3-(2-methyl-1-(3-methylisoxazol-5-ylamino)-1-oxopropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 3.3 mg, 11% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C(NC(C(=O)NC2=CC(=NO2)C)(C)C)=O | C31H27FN4O5
